US07834181B2
2-Fluoro-8-(2-iodo-4,5-dimethoxy-benzyl)-9-(pent-4-ynyl)adenine:
A solution of 2-fluoro-8-(2-iodo-4,5-dimethoxy-benzyl)adenine (12 mg, 0.028 mmol), Cs2CO3 (9 mg, 0.028 mmol), pent-4-ynyl tosylate (8.6 mg, 7 L, 0.036 mmol) in anhydrous DMF (80 L) was stirred at 50° C. for 1 h. Following solvent removal, the product (13.7 mg, 99%) was collected through silica gel column purification (CHCl3:EtOAc:hexanes:i-PrOH at 20:10:20:1). 1H NMR (400 MHz, CDCl3) 7.27 (s, 1H), 6.65 (s, 1H), 5.94 (bs, 2H), 4.29 (s, 2H), 4.13 (t, J=7.3 Hz, 2H), 3.87 (s, 3H), 3.73 (s, 3H), 2.26-2.22 (m, 2H), 2.00 (t, J=2.6 Hz, 1H), 1.97-1.90 (m, 2H); 13C NMR (100 MHz, CDCl3) 156.5, 153.2, 151.3, 150.0, 149.1, 130.9, 121.9, 112.6, 88.5, 82.5, 70.0, 56.4, 56.2, 42.6, 39.2, 28.4, 16.1; MS m/z 496.2 (M+H)+. HPLC: (a) 99.9% (60% water-40% acetonitrile); (b) 96.8% (35% to 55% acetonitrile).

reactant | 2-fluoro-8-(2-iodo-4,5-dimethoxy-benzyl)adenine | 0.028 mmol, 12 mg | FC1=NC(=C2NC(=NC2=N1)CC1=C(C=C(C(=C1)OC)OC)I)N | C14H13FIN5O2
reactant | Cs2CO3 | 0.028 mmol, 9 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | pent-4-ynyl tosylate | 0.036 mmol, 7 L, 8.6 mg | S(=O)(=O)(OCCCC#C)C1=CC=C(C)C=C1 | C12H14O3S
solvent | DMF | 80 L | CN(C)C=O | C3H7NO
product | 2-Fluoro-8-(2-iodo-4,5-dimethoxy-benzyl)-9-(pent-4-ynyl)adenine | FC1=NC(=C2N=C(N(C2=N1)CCCC#C)CC1=C(C=C(C(=C1)OC)OC)I)N | C19H19FIN5O2
